US08431575B2
To a stirred suspension of ethyl 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester hydrochloride salt (83.95 mmol, 25 g) in EtOAc (400 mL) was added saturated sodium bicarbonate solution (100 mL) and continued stirring for 1 h. The organic layer was separated, dried over, filtered and concentrated to get ethyl 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester. To a solution of ethyl 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester in EtOAc (100 mL) was added (Boc)2O (27.48 g) followed by 10% Pd—C (5 g) and the resultant reaction mixture was subjected to hydrogenation at 50 psi of hydrogen for 24 h. The catalyst was filtered by passing through a pad of celite, washed the celite pad with EtOAc (200 mL) and the combined filtrate was concentrated. The residue was purified by flash silica gel column chromatography by eluting with 10% ethyl acetate in hexanes to get ethyl 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (24.2 g).

reactant | ethyl 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(N(CCC1=O)CC1=CC=CC=C1)CC | C17H23NO3
reactant | (Boc)2O | 27.48 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 5 g | [Pd] | Pd
product | ethyl 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 24.2 g | C(C)OC(=O)C1C(N(CCC1=O)C(=O)OC(C)(C)C)CC | C15H25NO5
